US05457124
Preparation of 2,3-Dihydro-7-hydroxy-8-(3-phenylpropyl)-4H-1-benzopyran-4-one
A mixture of 3.5 g (12.5 mmol) of 3-(2-cyanoethoxy)-2-(3-phenylpropyl)phenol (preceding example), 16 mL of 85% phosphoric acid, and 7.7 mL of acetic acid was stirred and heated at 125° C. for 23 hr. After being cooled, the mixture was diluted with water and worked-up with ethyl acetate in the usual manner giving 4 g of a red oil. This material was chromatographed on silica gel. Elution with hexane-ethyl acetate mixtures afforded 2.3 g (65.2%) of the title compound as a yellow solid.

reactant | 3-(2-cyanoethoxy)-2-(3-phenylpropyl)phenol | 12.5 mmol, 3.5 g | C(#N)CCOC=1C(=C(C=CC1)O)CCCC1=CC=CC=C1 | C18H19NO2
reactant | phosphoric acid | 16 mL | P(O)(O)(O)=O | H3O4P
reactant | acetic acid | 7.7 mL | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,3-Dihydro-7-hydroxy-8-(3-phenylpropyl)-4H-1-benzopyran-4-one | 4 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCCC1=CC=CC=C1 | C18H18O3
